Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right groin and left neck swelling
 
Major Surgical or Invasive Procedure:
Bronchoscopy, hilar lymph node aspiration, and bronchial lavage 
(___)

 
History of Present Illness:
Mr. ___ is a very pleasant ___ yo man with PMH of HIV on 
HAART (last CD4 ___) who presented to the ED for evaluation of a 
right groin abscess/drainage.
Patient first noticed swelling in groin 3 weeks ago. He 
describes progressive swelling of a "bulge" in his right 
inguinal area without associated pain. He noticed a similar 
swelling in his neck several days later. In the outpatient 
setting he was seen by ENT here on ___. He underwent flex 
laryngoscopy during this visit and was recommended for biopsy 
and CT scan. He underwent ___ guided biopsy of the groin mass on 
___ and the neck mass on ___. Over the last few days he has 
noticed increased redness, swelling, and pain over his right 
groin and then the lesion "burst" last night, with resultant 
milky white drainage. This prompted Mr. ___ to come to the 
ED.
In the ED, initial VS were: Temp 97.6 HR 100 BP 121/97 RR 18 
SaO2 100% RA
Exam notable for: Soft tissue swelling right groin, mild with 
2-4 cm of surrounding erythema, with drainage of pus
Labs showed:
- 9.9 > 10.9/32.9 < ___ AGap=14
-------------< 91
4.5 23 0.8
- UA trace protein
Imaging showed:
+ CT Chest w/ Contrast
1. Cavitary lesions are noted in the right lower lobe with 
peribronchovascular opacities in the right lower lobe, right 
upper lobe, and left lower lobe, concerning for reactivation 
tuberculosis. There is associated mediastinal and bilateral 
hilar lymphadenopathy.
2. A 2.5 x 6.7 x 2.9 cm cystic mass is seen in the left 
supra-clavicular neck with associated centrally necrotic 
supraclavicular lymphadenopathy, concerning for scrofula.
3. 2.0 x 0.6 cm well-defined sclerotic lesion within the T1 
spinous process may represent a large bone island.
+ Right groin ultrasound
1. Interval decrease in size of a right groin hypoechoic mass 
with persistent mild internal vascularity, now measuring 1.8 x 
1.0 cm, previously 2.7 x 2.3 cm in ___. Though given the 
clinical history and interval decrease in size, portions of this 
mass may be consistent with thick or complex fluid, though 
persistence of scattered internal vascularity suggest an 
underlying soft tissue component.
2. No new discrete fluid collection.
+ CXR
Expanded hilar contours with suggestion of calcifications on the 
right suggesting hilar lymphadenopathy, with likely chronic 
granulomatous involvement. Consider contrast enhanced CT 
examination for further evaluation. Suggestion of scattered 
punctate calcified granulomas. No other definite parenchymal 
consolidation.
Patient received: 1L NS, Sulfameth/Trimethoprim DS, PO/NG 
Azithromycin
ID was consulted and felt CT findings highly concerning for 
disseminated TB. Recommended further imaging and full workup
Transfer VS were: 98.4 94 106/67 16 97% RA
On arrival to the floor, patient reports the above history. He 
has been largely asymptomatic over the course of the last 3 
weeks and denies cough, sputum production, hemoptysis, night 
sweats, fevers, chills, HA, visual changes, abdominal pain, 
parasthesia, ___ swelling, N/V/D, constipation, back pain. He 
does report recent weight fluctuations. Since his diagnosis of 
HIV ___ and his subsequent starting HAART he gained 30 lbs 
between ___ and ___ but has since lost 15 pounds in the 
past month (156 pounds in ___ 141 pounds during recent 
visit to PCP). He traveled to ___ at the end of ___ and 
notes climbing the ___ in ___. He 
also spent some time on the beach and swam in local ___. He 
denies any cave exposures or contact with birds or livestock. He 
is an employee of a ___ but denies time in other congregate 
settings including prison, homeless shelters or nursing homes. 
He was tested for TB (likely with a PPD) in past year for his 
job at a ___ in ___ and thinks it was negative. He 
currently lives with one roommate in ___ and ___ up in 
___. He has been home in the last year.
REVIEW OF SYSTEMS:
10 point ROS reviewed and negative except as per HPI
 
Past Medical History:
HIV. Diagnosed ___ after his dermatologist incidentally noted 
leukopenia. His CD4 nadir was in the ___, has since come up to 
70 on Genvoya (the only medication he has taken). He is 
compliant with his medication
 
Social History:
___
Family History:
Mother: DM
Father: HTN
2 older brothers, healthy as far as he knows
 
Physical Exam:
====================
ADMISSION EXAM
====================
VS: Temp 97.5 BP111 / 72 HR 97 RR18 SaO2 99%Ra
GENERAL: Well-appearing young gentleman, NAD. AAOx3.
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM
NECK: supple, no JVD. Doughy, non-tender, 6x4 cm slightly 
erythematous supraclavicular lymph node without drainage on 
left. Otherwise no appreciated LAD in anterior or posterior 
cervical chains or in submental, submandibular or axillary 
areas.
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: Decreased lung sounds right lung base. Otherwise no 
wheezes, rales, rhonchi, breathing comfortably without use of 
accessory muscles
ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
GU: Right inguinal LN with pointpoint area of milky drainage.
PULSES: 2+ DP pulses bilaterally
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

====================
DISCHARGE EXAM
====================
Vitals: 98.1 114/72  106 18 98%    
GENERAL: Well-appearing young gentleman, NAD. AAOx3.
HEENT: AT/NC, EOMI, PERRL, anicteric sclera
NECK: supple, no JVD. Doughy, non-tender, 6x4 cm slightly 
supraclavicular lymph node without drainage on left.
Otherwise no appreciated LAD in anterior or posterior cervical
chains or in submental, submandibular or axillary areas.
HEART: tachycardia but regular rhythm, S1/S2, no murmurs, 
gallops, or rubs  
LUNGS: No wheezes, rales, rhonchi, breathing comfortably without 
use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  
 
Pertinent Results:
===================
ADMISSION LABS
===================
___ 02:45PM BLOOD WBC-9.9 RBC-3.97* Hgb-10.9* Hct-32.9* 
MCV-83 MCH-27.5 MCHC-33.1 RDW-13.6 RDWSD-40.4 Plt ___
___ 02:45PM BLOOD Neuts-71.8* Lymphs-14.6* Monos-10.0 
Eos-2.7 Baso-0.3 Im ___ AbsNeut-7.12* AbsLymp-1.45 
AbsMono-0.99* AbsEos-0.27 AbsBaso-0.03
___ 02:45PM BLOOD Glucose-91 UreaN-12 Creat-0.8 Na-137 
K-4.5 Cl-100 HCO3-23 AnGap-14
___ 02:45PM BLOOD ALT-30 AST-23 LD(LDH)-176 AlkPhos-78 
TotBili-<0.2

===================
PERTINENT RESULTS
===================
LABS
===================
___ 07:58AM BLOOD HIV Ab-POSITIVE* HIV1-POSITIVE* 
HIV2-NEGATIVE
___ 07:58AM BLOOD HIV1 VL-1.9*
___ 03:08PM BLOOD CMV VL-NOT DETECT   
___ 10:30AM BLOOD QUANTIFERON-TB GOLD-Neg   
___ 03:08PM BLOOD EBV PCR, QUANTITATIVE, WHOLE BLOOD-1703  
H     
___ 03:08PM BLOOD LYMPHOGRANULOMA VENEREUM (LGV)-Neg   
___ 03:08PM BLOOD COCCIDIOIDES ANTIBODIES TO TP AND F 
ANTIGENS, ID-Neg     
___ 03:08PM BLOOD Bartonella ___ IgG/IgM 
Antibody Panel-Neg      
___ 03:08PM BLOOD BARTONELLA (ROCHALIMEA) HENSELAE 
ANTIBODIES, IGG AND IGM-Neg    
___ 03:08PM BLOOD B-GLUCAN-Interfering substances present   
  
___ 07:58AM BLOOD HISTOPLASMA ANTIBODY (BY CF AND ID)-Neg   
  
___ 07:58AM BLOOD BLASTOMYCOSIS ANTIBODY (BY CF AND ID)-Neg
___ 07:58AM BLOOD BLASTOMYCOSIS QUANT ANTIGEN-Neg

===================
MICROBIOLOGY
===================
__________________________________________________________
___ 4:30 pm BRONCHOALVEOLAR LAVAGE     BAL RIGHT LOWER 
LOBE. 
GRAM STAIN (Final ___: 
NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
NO MICROORGANISMS SEEN. 

RESPIRATORY CULTURE (Final ___: ~1000 CFU/mL Commensal 
Respiratory Flora. 

ACID FAST SMEAR (Final ___:  NO ACID FAST BACILLI SEEN ON 
CONCENTRATED SMEAR. 

ACID FAST CULTURE (Preliminary): 

FUNGAL CULTURE (Preliminary):   NO FUNGUS ISOLATED. 
__________________________________________________________
___ 4:38 pm TISSUE      EBUS TBNA LYMPHNODE BIOPSY. 

GRAM STAIN (Final ___: 
1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES. 
NO MICROORGANISMS SEEN. 
TISSUE (Final ___:    NO GROWTH. 
ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 
ACID FAST SMEAR (Final ___:  NO ACID FAST BACILLI SEEN ON 
DIRECT SMEAR. 
ACID FAST CULTURE (Preliminary): 
FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 
POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      NO FUNGAL ELEMENTS SEEN. 
__________________________________________________________
___ 9:17 pm SPUTUM     Site: INDUCED
 Source: Induced MORE THAN 12 HRS OLD. 

ACID FAST SMEAR (Final ___:  NO ACID FAST BACILLI SEEN ON 
CONCENTRATED SMEAR. 

ACID FAST CULTURE (Pending): 
__________________________________________________________
___ 3:08 pm Blood (Toxo)

**FINAL REPORT ___

TOXOPLASMA IgG ANTIBODY (Final ___: 
      NEGATIVE FOR TOXOPLASMA IgG ANTIBODY BY EIA. 
      0.0 IU/ML. 
      Reference Range:  Negative < 4 IU/ml, Positive >= 8 IU/ml. 


TOXOPLASMA IgM ANTIBODY (Final ___: 
      NEGATIVE FOR TOXOPLASMA IgM ANTIBODY BY EIA. 
      INTERPRETATION:  NO ANTIBODY DETECTED. 
__________________________________________________________
___ 3:08 pm SEROLOGY/BLOOD
 
RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 
__________________________________________________________
___ 3:08 pm SEROLOGY/BLOOD

CRYPTOCOCCAL ANTIGEN (Final ___: 
      CRYPTOCOCCAL ANTIGEN NOT DETECTED. 
__________________________________________________________
___ 6:48 am SPUTUM      Source: Induced. 

GRAM STAIN (Final ___: 
<10 PMNs and >10 epithelial cells/100X field.  Gram stain 
indicates extensive contamination with upper respiratory 
secretions. Bacterial culture results are invalid. 
   
ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

ACID FAST CULTURE (Preliminary): 

MTB Direct Amplification (Final ___: 
      M. TUBERCULOSIS DNA NOT DETECTED BY NAAT: A negative NAAT 
cannot rule
      out TB  or other mycobacterial infection. 
__________________________________________________________
___ 7:58 am BLOOD CULTURE ( MYCO/F LYTIC BOTTLE)

   BLOOD/FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   BLOOD/AFB CULTURE (Preliminary):    NO MYCOBACTERIA ISOLATED. 

__________________________________________________________
___ 6:51 pm URINE

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 
__________________________________________________________
___ 5:00 pm BLOOD CULTURE

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 2:50 pm BLOOD CULTURE

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 11:09 am SWAB     Site: GROIN      Source: Right groin. 


   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 
__________________________________________________________
___ 9:45 am FLUID,OTHER      FNA .LEFT NECK ASPIRATION 
FLUID.. 

GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

FLUID CULTURE (Final ___: STAPH AUREUS COAG +. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------<=0.12 S
OXACILLIN-------------<=0.25 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 

===================
IMAGING
===================
Right groin ultrasound (___): 
1. Interval decrease in size of a right groin hypoechoic mass 
with persistent mild internal vascularity, now measuring 1.8 x 
1.0 cm, previously 2.7 x 2.3 cm in ___.  Though given 
the clinical history and interval decrease in size, portions of 
this mass may be consistent with thick or complex fluid, though 
persistence of scattered internal vascularity suggest an 
underlying soft tissue component.
2. No new discrete fluid collection.
===
CT Chest with contrast (___):
1. Cavitary lesions are noted in the right lower lobe with 
peribronchovascular opacities in the right lower lobe, right 
upper lobe, and left lower lobe, concerning for reactivation 
tuberculosis.  There is associated mediastinal and bilateral 
hilar lymphadenopathy.
2. A 2.5 x 6.7 x 2.9 cm cystic mass is seen in the left 
supraclavicular neck with associated centrally necrotic 
supraclavicular lymphadenopathy, concerning for scrofula.
3. 2.0 x 0.6 cm well-defined sclerotic lesion within the T1 
spinous process
may represent a large bone island.
===
Lymph node biopsy (___):
Lymph node, level 7, EBUS-TBNA:
- Abundant necrosis and scant fragments of granulomatous 
inflammation, consistent with necrotizing
granulomas.
- AFB, ___, GMS, PAS, and tissue Gram stains are negative for 
microorganisms.
- There is no evidence of malignancy.

===================
DISCHARGE LABS
===================
___ 07:40AM BLOOD WBC-7.7 RBC-4.03* Hgb-11.1* Hct-33.9* 
MCV-84 MCH-27.5 MCHC-32.7 RDW-14.2 RDWSD-42.9 Plt ___
___ 08:00AM BLOOD Glucose-82 UreaN-22* Creat-0.8 Na-138 
K-4.5 Cl-100 HCO3-24 AnGap-___ y/o M with HIV on Genvoya and azithro/bactrim ppx, recently 
s/p biopsy of groin and neck masses with pathology showing 
necrotizing granulomas and chest imaging with cavitating lesion 
here for evaluation of lymphadenopathy and tuberculosis 
rule-out. 

====================
Acute Issues
====================
#Lymphadenopathy 
Patient first noticed swelling in groin 3 weeks ago. He 
describes progressive swelling of a "bulge" in his right 
inguinal area without associated pain. He noticed a similar 
swelling in his neck several days later. In the outpatient 
setting he was seen by ENT here on ___. He underwent flex 
laryngoscopy during this visit and was recommended for biopsy 
and CT scan. He underwent ___ guided biopsy of the groin mass on 
___ and the neck mass on ___. Beginning on ___ he noticed 
increased redness, swelling, and pain over his right groin and 
then the lesion "burst" ___, with resultant milky white 
drainage. This prompted Mr. ___ to come to the ED. He has 
been largely asymptomatic over the course of the last 3 weeks. 
During this admission Mr. ___ underwent extensive imaging 
and testing. His chest CT was concerning for reactivation TB 
with cavitary lesions as well as associated hilar 
lymphadenopathy. Additionally, a well-defined sclerotic lesion 
within the T1 spinous process was seen and may represent a large 
bone island. The mass on his neck was described as a left 
supra-clavicular mass with associated centrally necrotic 
supraclavicular lymphadenopathy, concerning for scrofula. The 
patient does not have significant risk factors for TB, however 
given his symptoms an extensive infectious work-up was sent and 
he underwent a bronchoscopy and biopsy of the hilar 
lymphadenopathy. Sputum was negative for acid fast bacilli and 
Quantiferon Gold was negative. All tests were negative except 
for EBV PCR, which was elevated at 1700 copies. Pathology of the 
biopsy revealed necrotizing granulomas; AFB negative. Per 
infectious disease, suspicion for tuberculosis is low, and the 
patient may return to work while studies are pending.

# Right groin abscess: The discharge from his groin grew MSSA on 
culture and be was treated with Keflex (7 day course; last day 
___. 

====================
Chronic Issues
====================
#HIV: Continued Genvoya, Bactrim DS daily prophylaxis, 
azithromycin 1200mg weekly on ___. 

====================
Transitional Issues 
====================
[] Continue cephalexin 500 mg four times a day to treat the 
infection in your groin (Last day: ___
[] Follow-up with ___ providers to discuss results of biopsy 
and infectious work-up
[] Follow up with pulmonologists
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Azithromycin 1200 mg PO 1X/WEEK (TH) 
2. Diclofenac Sodium ___ 75 mg PO BID 
3. Genvoya (elviteg-cob-emtri-tenof ALAFEN) ___ mg 
oral DAILY 
4. Sulfameth/Trimethoprim DS 1 TAB PO DAILY 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q6H 
Last day: ___ 
RX *cephalexin 500 mg 1 capsule(s) by mouth Four times a day 
Disp #*9 Capsule Refills:*0 
2.  Azithromycin 1200 mg PO 1X/WEEK (TH)  
3.  Diclofenac Sodium ___ 75 mg PO BID:PRN pain  
4.  Genvoya (elviteg-cob-emtri-tenof ALAFEN) ___ mg 
oral DAILY  
5.  Sulfameth/Trimethoprim DS 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
- Lymphadenopathy
- Abscess

SECONDARY:
- HIV on HAART

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___. Please see below 
for information on your time in the hospital.

WHY WAS I IN THE HOSPITAL?
- You were admitted to the hospital so that we could try to find 
the source of infection causing your enlarged lymph nodes. 
 
WHAT HAPPENED IN THE HOSPITAL?
- We got blood tests, urine tests, and imaging to look for the 
source of infection as well as a biopsy from inside your lungs. 

WHAT SHOULD I DO WHEN I GO HOME?
- Continue taking the antibiotic to treat your groin infection 
through ___ 
- You should continue to take your medications as prescribed 
(see below) and follow up with your doctors at ___ to 
get the results of all of your testing. 

We wish you the best!
-Your Care Team at ___

 
Followup Instructions:
___